US07408063B2
n-BuLi (0.0166 mol) was added slowly at −78° C. to a solution of 2,4-dihydro-4-methyl-3H-1,2,4-triazole-3-thione (0.0082 mol) in THF (50 ml) under N2 flow. The mixture was stirred at 0° C. for 1 hour, then cooled to −78° C. 9-(4-chlorobenzoyl)-7-(3-chlorophenyl)-2,3-dihydro-1H,5H-benzo[ij]quinolizin-5-one (described in International Application WO98/40383) (0.0046 mol) was added portionwise. The mixture was stirred at room temperature for 4 hours, poured out on ice and extracted with EtOAc. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue (2.32 g) was purified by column chromatography over silica gel (15-40 μm) (eluent: CH2Cl2/CH3OH/NH4OH 98/2/0.1 to 96/4/0.1). The pure fractions were collected and the solvent was evaporated. The residue (1 g, 40%). was crystallized from acetonitril. The precipitate was filtered off and dried, yielding 0.52 g (21%) of 7-(3-chlorophenyl)-9-[(4-chlorophenyl)hydroxy(5-mercapto-4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2,3-dihydro-1H,5H-benzo[ij]quinolizin-5-one hydrate (1:1), melting point 160° C. (intermediate 7).

reactant | n-BuLi | 0.0166 mol | [Li]CCCC
reactant | 2,4-dihydro-4-methyl-3H-1,2,4-triazole-3-thione | 0.0082 mol | CN1C(NN=C1)=S | C3H5N3S
reactant | 9-(4-chlorobenzoyl)-7-(3-chlorophenyl)-2,3-dihydro-1H,5H-benzo[ij]quinolizin-5-one | 0.0046 mol | ClC1=CC=C(C(=O)C2=CC=3C(=CC(N4CCCC(C34)=C2)=O)C2=CC(=CC=C2)Cl)C=C1 | C25H17Cl2NO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-(3-chlorophenyl)-9-[(4-chlorophenyl)hydroxy(5-mercapto-4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2,3-dihydro-1H,5H-benzo[ij]quinolizin-5-one hydrate | 0.52 g, 21% | O.ClC=1C=C(C=CC1)C=1C2=C3C(CCCN3C(C1)=O)=CC(=C2)C(C2=NN=C(N2C)S)(O)C2=CC=C(C=C2)Cl | InChI=1S/C28H22Cl2N4O2S.H2O/c1-33-26(31-32-27(33)37)28(36,18-7-9-20(29)10-8-18)19-12-17-5-3-11-34-24(35)15-22(23(14-19)25(17)34)16-4-2-6-21(30)13-16;/h2,4,6-10,12-15,36H,3,5,11H2,1H3,(H,32,37);1H2
